US05068300
51.4 g of Bromobenzoic acid tert.-butyl ester, 21.6 g of trimethylsilylacetylene, 1.4 g of (Ph3P)2PdCl2 in 400 ml of absolute acetonitrile and 100 ml of triethylamine are stirred under reflux for 8 hours in an atmosphere of nitrogen. After the reaction product has been worked up with CH2Cl2 /H2O and distilled, 40.6 g of 4-(trimethylsilylethinyl)-benzoic acid tert.-butyl ester are obtained.

reactant | Bromobenzoic acid tert.-butyl ester | 51.4 g | C(C)(C)(C)OC(C1=C(C=CC=C1)Br)=O | C11H13BrO2
reactant | trimethylsilylacetylene | 21.6 g | C[Si](C)(C)C#C | C5H10Si
reactant | CH2Cl2 H2O | C(Cl)Cl.O
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
catalyst | (Ph3P)2PdCl2 | 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(trimethylsilylethinyl)-benzoic acid tert.-butyl ester | 40.6 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C16H22O2Si
